US07915424B2
3-Bromo-5-(4-fluorophenylethynyl)-pyridine
Heat a suspension of 3,5-dibromopyridine (4.00 g, 16.88 mmol), bis(triphenylphosphine)palladium (II) dichloride (0.59 g, 0.84 mmol) and copper (I) iodide (0.32 g, 1.69 mmol) in triethylamine (4.7 mL, 33.8 mmol) to 80° C. Add a solution of 1-ethynyl-4-fluorobenzene (2.03 g, 16.88 mmol) in acetonitrile (34 mL), stir for 2 h, cool to room temperature and dilute with ethyl acetate. Wash with an aqueous saturated solution of sodium bicarbonate, dry (magnesium sulfate), filter and concentrate. Purify the residue by silica gel chromatography, eluting with a 1% solution of ethyl acetate in 1:1 chloroform:hexanes, and then recrystallize from methanol to give the title compound (2.4 g, 51.5%).

reactant | 3,5-dibromopyridine | 16.88 mmol, 4.00 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | triethylamine | 33.8 mmol, 4.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethynyl-4-fluorobenzene | 16.88 mmol, 2.03 g | C(#C)C1=CC=C(C=C1)F | C8H5F
solvent | acetonitrile | 34 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 0.84 mmol, 0.59 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 1.69 mmol, 0.32 g | [Cu]I
product | 3-Bromo-5-(4-fluorophenylethynyl)-pyridine | 2.4 g, 51.5% | BrC=1C=NC=C(C1)C#CC1=CC=C(C=C1)F | C13H7BrFN
